US07884104B2
Step A: 6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a stirring solution of 3 g (20 mmol) of 3,6-dichloropyridazine and 4.5 g (40 mmol) semicarbazide hydrochloride in 100 mL of a 3:1 mixture of ethanol/water was added 5 drops of concentrated hydrochloric acid. The resulting solution was heated to reflux for 24 h under nitrogen then evaporated in vacuo and the resulting solid was recrystallized from ethanol to yield the title compound as a yellow crystalline solid. A similar route to this compound is described in the literature (P. Francavilla, et. al. J. Heterocyclic Chem., 1971, 8, 415-419). LC/MS 171.2 (M+1).

reactant | 3,6-dichloropyridazine | 20 mmol, 3 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | semicarbazide hydrochloride | 40 mmol, 4.5 g | Cl.NNC(=O)N
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | ethanol water | C(C)O.O
product | 6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC=1C=CC=2N(N1)C(NN2)=O | C5H3ClN4O
